US08497368B2
(E)-1-Methyl-2-(1-(3-(1-(quinolin-6-yl)cyclopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide (Example 50)
A solution of 1-[3-(1-quinolin-6-yl-cyclopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-ethanone (30 mg, 0.091 mmol), acetic acid (0.1 mL) and 1-methylhydrazinecarboxamide (16.2 mg, 0.18 mmol) in methanol (5 mL) was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was diluted with DCM, washed with sat. aqueous NaHCO3. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography in silica gel eluting with a CH2Cl2/MeOH gradient to afford the title compound (14.9 mg, 41%) as yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.84 (dd, 1H), 8.30 (d, 1H), 8.22 (d, 1H), 8.13 (d, 1H), 7.94-7.92 (m, 2H), 7.70 (dd, 1H), 7.49 (dd, 1H), 6.64 (s, 2H), 3.21 (s, 3H), 2.16 (s, 3H), 1.78-1.75 (m, 2H), 1.68-1.65 (m, 2H). LCMS (method A): [MH]+=401, tR=4.11 min.

reactant | 1-[3-(1-quinolin-6-yl-cyclopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-ethanone | 0.091 mmol, 30 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=C2)C(C)=O | C19H15N5O
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
reactant | 1-methylhydrazinecarboxamide | 0.18 mmol, 16.2 mg | CN(N)C(=O)N | C2H7N3O
solvent | methanol | 5 mL | CO | CH4O
product | (E)-1-Methyl-2-(1-(3-(1-(quinolin-6-yl)cyclopropyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylidene)hydrazinecarboxamide | 14.9 mg, 41% | CN(/N=C(\C)/C=1C=CC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)C(=O)N | C21H20N8O
